US04997840
A mixture of 4-hydroxyquinol-3-yl methanesulphonate (0.48 g) and potassium carbonate (0.28 g) in dry dimethylformamide (20 ml) was stirred for 2 hours at ambient temperature. Methyl iodide (0.15 ml) was then added and the stirring at ambient temperature continued overnight. The solvent was removed under reduced pressure and the residue was triturated with water (10 ml). The resultant mixture was extracted extracts were evaporated to dryness. The residue was purified by flash chromatography on a silica gel column eluted with dichloromethane:methanol (39:1) followed by crystallisation from industrial methylated spirit (10 ml) to give the novel compound ]-methyl-4-oxo-1,4-dihydroquinol-3-yl methanesulphonate, m.p. 206°-208°.

reactant | 4-hydroxyquinol-3-yl methanesulphonate | 0.48 g | CS(=O)(=O)OC=1C=NC2=CC=CC=C2C1O | C10H9NO4S
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | 0.15 ml | CI | CH3I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl-4-oxo-1,4-dihydroquinol-3-yl methanesulphonate | CS(=O)(=O)OC1=CN(C2=CC=CC=C2C1=O)C | C11H11NO4S
